US04361559
(C) 11β-Acetyloxy-17-(ethylthio)-9-fluoroandrosta-1,4,16-trien-3-one
A suspension of 5.2 g of 11β-acetyloxy-17,17-bis(ethylthio)-9-fluoroandrosta-1,4-dien-3-one in 85 ml of dry diethylbenzene is stirred at 180° C. (oil bath temperature) for 1.0 hour; the suspension gradually becomes a homogeneous solution during the heating. The resulting solution is cooled to 0° C. and the solid that precipitates is filtered and dried in vacuo to give 3.6 g of the title compound, melting point 211°-215° C., with consistent spectral data.

reactant | 11β-acetyloxy-17,17-bis(ethylthio)-9-fluoroandrosta-1,4-dien-3-one | 5.2 g | C(C)(=O)O[C@@H]1[C@@]2([C@]3(C=CC(C=C3CC[C@H]2[C@@H]2CCC([C@@]2(C)C1)(SCC)SCC)=O)C)F | C25H35FO3S2
solvent | diethylbenzene | 85 ml | C(C)C1=C(C=CC=C1)CC | C10H14
product | 11β-Acetyloxy-17-(ethylthio)-9-fluoroandrosta-1,4,16-trien-3-one | 3.6 g | C(C)(=O)O[C@@H]1[C@@]2([C@]3(C=CC(C=C3CC[C@H]2[C@@H]2CC=C([C@@]2(C)C1)SCC)=O)C)F | C23H29FO3S
